US03992389
1-[2-(2-Methoxyphenoxy)ethyl]-4-benzamidopiperidine
2-(2-Methoxyphenoxy)ethyl bromide (2.31 g.), 4-benzamidopiperidine (2.04 g.) and anhydrous potassium carbonate (1.38 g.) were well mixed and heatedon a steam bath for 4 hr. The resulting mass was crushed and stirred in water (200 ml.) at 60° for 12 hr. Filtration afforded the crude base of the title compound (2.95 g.). Conversion to the hydrochloride by solution in ethanol/HCl and precipitation with ether provided 3.01 g. of the title compound, as the hydrochloride m.p. 193.4°. Analysis : Found C, 64.74; H, 7.08; N, 7.14. C21H26N2O3. HCl requires C, 64.52; H, 6.96; N, 7.17%.

reactant | 2-(2-Methoxyphenoxy)ethyl bromide | 2.31 g | COC1=C(OCCBr)C=CC=C1 | C9H11BrO2
reactant | 4-benzamidopiperidine | 2.04 g | C(C1=CC=CC=C1)(=O)NC1CCNCC1 | C12H16N2O
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 200 ml | O | H2O
product | 1-[2-(2-Methoxyphenoxy)ethyl]-4-benzamidopiperidine | 2.95 g | COC1=C(OCCN2CCC(CC2)NC(C2=CC=CC=C2)=O)C=CC=C1 | C21H26N2O3
